US06476045B2
4-(2-Methoxyphenyl)-1-(1-oxo-2-propenyl)piperazine
Acryloyl chloride (10.6 mL, 11.8 g, 0.13 mol) was added dropwise to a stirred, cooled (0° C.) mixture of 1-(2-methoxyphenyl)piperazine hydrochloride (15 g, 66 mmol) and triethylamine (27.3 g, 19.8 g, 0.20 mol) in dichloromethane and the mixture was stirred at room temperature for 2 h. The mixture was poured into hydrochloric acid (1M) and extracted with dichloromethane. The combined organic fractions were washed with aqueous sodium hydrogen carbonate (saturated), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (40:60 increasing to 20:80), to give the title compound as a pale yellow oil (3.6 g, 22%). 1H NMR (360 MHz, CDCl3) δ 7.04 (1H, m), 6.95-6.84 (3H, m), 6.61 (1H, dd, J 16.8, 10.6 Hz), 6.32 (1H, dd, J 16.8, 1.8 Hz), 5.72 (1H, dd, J 10.6, 1.8 Hz), 3.94-3.84 (2H, m), 3.89 (3H, s), 3.74 (2H, m), and 3.06 (4H, m). m/z (ES+) 247 (M+1).

reactant | Acryloyl chloride | 0.13 mol, 10.6 mL, 11.8 g | C(C=C)(=O)Cl | C3H3ClO
reactant | 1-(2-methoxyphenyl)piperazine hydrochloride | 66 mmol, 15 g | Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | triethylamine | 0.20 mol, 27.3 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(2-Methoxyphenyl)-1-(1-oxo-2-propenyl)piperazine | 3.6 g, 22% | COC1=C(C=CC=C1)N1CCN(CC1)C(C=C)=O | C14H18N2O2
